US04251546
2-(5-chloro-2-hydroxyphenyl)-2-(5-chloro-2-methoxyphenyl) propane (m.p. 137° C.) was prepared from 2-(5-chloro-2-methoxyphenyl)propan-2-ol and 4-chlorophenol following the method described in Example 3 for the preparation of 2-(5-fluoro-2-hydroxyphenyl)-2-(5-fluoro-2-methoxyphenyl)propane.

reactant | 2-(5-chloro-2-methoxyphenyl)propan-2-ol | ClC=1C=CC(=C(C1)C(C)(C)O)OC | C10H13ClO2
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2-(5-fluoro-2-hydroxyphenyl)-2-(5-fluoro-2-methoxyphenyl)propane | FC=1C=CC(=C(C1)C(C)(C)C1=C(C=CC(=C1)F)OC)O | C16H16F2O2
product | 2-(5-chloro-2-hydroxyphenyl)-2-(5-chloro-2-methoxyphenyl) propane | ClC=1C=CC(=C(C1)C(C)(C)C1=C(C=CC(=C1)Cl)OC)O | C16H16Cl2O2
